US07547691B2
Hydrazine (1.10 g, 34.2 mmol) is added to a stirred solution of 2-[3-(4-benzhydryl-2,6-cis-dimethylpiperazin-1-yl)-propyl]-isoindole-1,3-dione (1.98 g, 4.28 mmol) in ethanol (70 mL). The mixture is heated at 70° C. for 12 hours to form a suspension. At room temperature the mixture is filtered and the filtrate is concentrated to give 3-(4-benzhydryl-2,6-cis-dimethyl-piperazin-1-yl)-propylamine (1.02 g, 71% yield) as an oil.

reactant | Hydrazine | 34.2 mmol, 1.10 g | NN | H4N2
reactant | 2-[3-(4-benzhydryl-2,6-cis-dimethylpiperazin-1-yl)-propyl]-isoindole-1,3-dione | 4.28 mmol, 1.98 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1C[C@@H](N([C@@H](C1)C)CCCN1C(C2=CC=CC=C2C1=O)=O)C | C30H33N3O2
solvent | ethanol | 70 mL | C(C)O | C2H6O
product | 3-(4-benzhydryl-2,6-cis-dimethyl-piperazin-1-yl)-propylamine | 1.02 g, 71% yield | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1C[C@@H](N([C@@H](C1)C)CCCN)C | C22H31N3
